2184-06-03 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 RADIATION THERAPY - At [**2184-6-2**] 03:14 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-3**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 68 (57 - 81) bpm
   BP: 168/85(107) {95/60(77) - 168/97(107)} mmHg
   RR: 18 (9 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 72 kg
   Height: 61 Inch
                  Total In:
                                                                  1,362 mL
                                                                    350 mL
   PO:
                                                                  1,280 mL
                                                                    350 mL
   TF:
   IVF:
                                                                     82 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    862 mL
                                                                    350 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   303 K/uL
   11.3 g/dL
   121 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.2 mEq/L
   15 mg/dL
   103 mEq/L
   139 mEq/L
   33.6 %
   13.4 K/uL
        [image002.jpg]
                             [**2184-5-29**]  11:39 AM
                             [**2184-5-30**]  03:46 AM
                             [**2184-5-31**]  03:45 AM
                             [**2184-6-1**]  05:00 AM
                             [**2184-6-2**]  03:06 AM
                             [**2184-6-3**]  03:21 AM
   WBC
   8.9
   10.5
   18.1
   14.1
   14.9
   13.4
   Hct
   34.3
   33.4
   31.5
   31.7
   34.0
   33.6
   Plt
   [**Telephone/Fax (3) 7060**]59
   388
   303
   Cr
   0.6
   0.6
   0.6
   0.7
   0.7
   0.6
   Glucose
   142
   132
   149
   137
   137
   121
   Other labs: PT / PTT / INR:15.0/26.9/1.3, ALT / AST:14/17, Alk Phos / T
   Bili:75/0.3, Differential-Neuts:88.6 %, Lymph:10.4 %, Mono:0.4 %,
   Eos:0.4 %, Albumin:3.6 g/dL, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   44 yoF with recent diagnosis of probable SCLCA, s/p brain bx, now
   planned for WBR, transferred for close neurologic monitoring in setting
   of initiation of XRT.
   .
   #. Lung/CNS/adrenal/renal lesions: In setting of patient's
   constitutional symptoms, smoking history and weight loss, these
   findings are highly suspicious for primarily lung cancer with wide
   metastatic spread. An infectious etiology is also possible, but much
   less likely given lack of fevers, normal WBC at time of admission,
   negative culture data to date.
   -s/p brain bx; follow-up results
   -WBR planned for later today; will need q1 hour neuro checks after
   wards
   -oncology consult
   -neuro/neuro oncology to follow
   -continue dexamethasone for now, transitioning to PO
   -continue Keppra
   .
   #. Elevated blood pressure: Pt without diagnosis of HTN, but with
   elevated blood pressures since admission. Started on hydralazine
   several days ago. Reasonable to continue this for now while trending
   BPs, however would likely transition to a better long term medication
   (such as an ACEi or CCB) at discharge.
   .
   #. Elevated blood sugars: Blood sugars in the low to mid 100s since
   initiations of steroids, which are likely a major contributing factor.
   -continue ISS
   -continue to trend
   .
   #. Nausea/vomiting: Have now resolved. Likely related to metastatic CNS
   disease. Will monitor closely.
   .
   #. Asthma: No currently an active issue. Continue to monitor lung exam.
   .
   #. Anemia: Normocytic, normal RDW. Fe studies from [**2184-5-25**] essentially
   normal. [**Month (only) 51**] be related to malignancy versus menstrual status. Continue
   to trend.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-5-31**] 03:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: